US05272147
5Acetyl-2-ethoxybenzoyl chloride
Oxalyl chloride (3.66 g, 0.029 mol) was added dropwise to a stirred solution of 5-acetyl-2-ethoxybenzoic acid (3.0 g, 0.014 mol) in dichloromethane (15 ml) and dimethylformamide (0.1 ml) After 3 hours at room temperature, the solvent was removed by evaporation under vacuum and the residue axeotroped with hexane (3×30 ml) to give the title compound, which was used without further purification.

reactant | Oxalyl chloride | 0.029 mol, 3.66 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-acetyl-2-ethoxybenzoic acid | 0.014 mol, 3.0 g | C(C)(=O)C=1C=CC(=C(C(=O)O)C1)OCC | C11H12O4
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
product | 5Acetyl-2-ethoxybenzoyl chloride | C(C)(=O)C=1C=CC(=C(C(=O)Cl)C1)OCC | C11H11ClO3
